US09399639B2
Step 2) ((tert-butoxycarbonyl)amino)-3-methylbutanoate carbon 1 amino-3-methylbutanoate
The title compound was prepared according to the procedure as described in Example 14 Step 2 using N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.1 g, 0.2 mmol) in DMF (0.9 mL), KOH (23 mg, 0.4 mmol), a solution of chloromethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate (54 mg, 0.2 mmol) in DMF (100 μL). The title compound was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1 to 3/1) and was obtained as a white solid (82 mg, 55.8%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.2 mmol, 0.1 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | KOH | 0.4 mmol, 23 mg | [OH-].[K+]
reactant | chloromethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate | 0.2 mmol, 54 mg | C(C)(C)(C)OC(=O)NC(C(=O)OCCl)C(C)C | C11H20ClNO4
solvent | DMF | 0.9 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 μL | CN(C)C=O | C3H7NO
product | ((tert-butoxycarbonyl)amino)-3-methylbutanoate carbon | [C+4].C(C)(C)(C)OC(=O)NC(C(=O)[O-])C(C)C.C(C)(C)(C)OC(=O)NC(C(=O)[O-])C(C)C.C(C)(C)(C)OC(=O)NC(C(=O)[O-])C(C)C.C(C)(C)(C)OC(=O)NC(C(=O)[O-])C(C)C | InChI=1S/4C10H19NO4.C/c4*1-6(2)7(8(12)13)11-9(14)15-10(3,4)5;/h4*6-7H,1-5H3,(H,11,14)(H,12,13);/q;;;;+4/p-4
